US07427612B2
3-Fluoro-4-piperazin-1-yl-benzenesulfonamide
A mixture of 0.5 g (3 mmol) 3,4-Difluoro-benzenesulfonamide and 1.15 g (13 mmol) piperazine in 2.3 ml water was heated to 110° C. for 3 h and subsequently the precipitate was filtered off and washed with water and toluene. The residue was dried under high vacuum to yield 0.578 g (86%) of the title compound as white crystals.

reactant | 3,4-Difluoro-benzenesulfonamide | 3 mmol, 0.5 g | FC=1C=C(C=CC1F)S(=O)(=O)N | C6H5F2NO2S
reactant | piperazine | 13 mmol, 1.15 g | N1CCNCC1 | C4H10N2
solvent | water | 2.3 ml | O | H2O
product | 3-Fluoro-4-piperazin-1-yl-benzenesulfonamide | 0.578 g, 86% | FC=1C=C(C=CC1N1CCNCC1)S(=O)(=O)N | C10H14FN3O2S
